Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
shellfish derived / peanut
 
Attending: ___.
 
Chief Complaint:
abdominal sepsis
 
Major Surgical or Invasive Procedure:
ex-laparotomy, washouts, flap advancement with surgimend closure 


 
History of Present Illness:
Mr. ___ is a ___ man with history significant
for asymptomatic large cecal mass detected on screening
colonoscopy underwent lap-assisted R colectomy complicated by
leak that required ex-lap with washouts and vac placement
eventually underwent closure of the abdomen on ___, 
patient
discharged home and came back today with high grade fever, pain,
foul smelling abdominal wound discharges. He denies any nausea
vomiting, shortness of breath, chest pain or any other
complaints. 
 
Past Medical History:
PMH:  HTN, clavicle fx, gout, HLD, BPH, asthma

PSH:  Knee surgery, inguinal hernia repair, umbilical hernia 
repair w/ mesh, c-scope at ___ showing large cecal 
mass

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Discharge Physical Exam:
VS: 97.8  120/76  105   16  99%RA  
GEN: AA&O x 3, NAD, calm, cooperative.
HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI, 
PERRL.
CHEST: Clear to auscultation bilaterally, (-) cyanosis.
ABDOMEN: (+) BS x 4 quadrants, soft, non- tender, non-distended. 
Incisions: large midline open abdominal wound cover with wound 
VAC.
EXTREMITIES: Warm, well perfused, pulses palpable, (-) edema
 
Pertinent Results:
___ 03:13PM   PLT SMR-HIGH PLT COUNT-543*
___ 03:13PM   HYPOCHROM-1+ ANISOCYT-OCCASIONAL 
POIKILOCY-NORMAL MACROCYT-OCCASIONAL MICROCYT-NORMAL 
POLYCHROM-1+
___ 03:13PM   NEUTS-76* BANDS-9* LYMPHS-4* MONOS-11 EOS-0 
BASOS-0 ___ MYELOS-0 AbsNeut-21.85* AbsLymp-1.03* 
AbsMono-2.83* AbsEos-0.00* AbsBaso-0.00*
___ 03:13PM   WBC-25.7*# RBC-3.01* HGB-9.1* HCT-27.1* 
MCV-90 MCH-30.2 MCHC-33.6 RDW-14.0 RDWSD-45.6
___ 03:13PM   ALBUMIN-3.1*
___ 03:13PM   ALT(SGPT)-49* AST(SGOT)-30 ALK PHOS-249* TOT 
BILI-0.8
___ 03:13PM   GLUCOSE-110* UREA N-25* CREAT-1.2 SODIUM-122* 
POTASSIUM-3.8 CHLORIDE-87* TOTAL CO2-19* ANION GAP-20
___ 03:36PM   LACTATE-2.3*
___ 04:03PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:03PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:03PM URINE  GR HOLD-HOLD
___ 04:03PM URINE  UHOLD-HOLD
___ 04:03PM URINE  HOURS-RANDOM
___ 04:03PM URINE  HOURS-RANDOM
___ 09:56PM   HCT-22.6*
___ 09:56PM   CALCIUM-7.1* PHOSPHATE-2.3* MAGNESIUM-1.8
___ 09:56PM   GLUCOSE-133* UREA N-17 CREAT-0.9 SODIUM-127* 
POTASSIUM-3.0* CHLORIDE-94* TOTAL CO2-19* ANION GAP-17
 
Brief Hospital Course:
The patient presented to pre-op/Emergency Department on ___ 
. Pt was evaluated by anaesthesia/ Upon arrival to ED.  Given 
findings, the patient was taken to the operating room for 
ex-lap,washouts,flap advancement w/ surgimend and wound VAC 
placement. There were no adverse events in the operating room; 
please see the operative note for details.  Pt was extubated, 
taken to the PACU until stable, then transferred to the TSICU 
for observation.

On POD1, patient has been persistently tachycardic up to 130's, 
however urine output has been adequate. NG tube was removed. 
Over night, he has agitated and delirious that required 1 dose 
of IV Haldol. Patient started on broad spectrum IV antibiotics 
to treat abdominal sepsis and pneumonia and IV fluconazole 
prophylactically. 

POD2, he has multiple loose bowel movement which was positive 
for C.diff, IV flagyl and PR vancomycin has been started. He 
also stayed delirious during the day. He has been taken to the 
OR again for washout/VAC changes and went back to the TSICU and 
this time he kept intubated and was HD stable over the night. 

POD3, Patient was extubated but remained delirious. POD4, his 
over all delirium issues has been improved, CT abdomen/Pelvis 
done which was negative for any perforation or fluid 
collections, he has taken back to the OR for wash out/VAC 
changes. 

POD5, his heart rate went high, up to 133 with irregular rhythm, 
multiple 5mg metoprolol doses have been given that managed the 
heart rate perfectly, IV 5mg metoprolol was started q6h standing 
dose daily that stopped completely a few days later. 

On ___, he has taken back to the OR for another wash out 
and VAC changes and then transferred to the regular floor after. 


During stay on regular floor the hospital course has been 
described systematically as follow:   

Neuro: The patient was alert and oriented on the floor; pain was 
managed perfectly with IV pain medicine that transitioned to 
oral once tolerating a diet.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Metoprolol has 
been stopped and heart rate remain stable.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged.

GI/GU/FEN: Initially he was NPO and on TPN. The diet was 
advanced sequentially to a Regular diet, which was well 
tolerated, subsequently TPN has been stopped. Patient's intake 
and output were closely monitored

ID: The patient's fever curves were closely watched of which he 
was afebrile through out hospitalization. Patient switched to PO 
Flagyl and kept on C.Diff treatment for 15 days after discharge 
with PO Vancomycin as well.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
3. Allopurinol ___ mg PO DAILY 
4. MetroNIDAZOLE 250 mg PO Q8H 
RX *metronidazole [Flagyl] 250 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*45 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Enter Cutaneous fistula 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing ex-laparotomy, washouts, flap advancement with 
surgimend closure on ___. You have recovered from surgery 
and are now ready to be discharged home. Please follow the 
recommendations below to ensure a speedy and uneventful 
recovery.  

ACTIVITY: 
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency. 
- You may climb stairs.  
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap. 
- You may start some light exercise when you feel comfortable. 
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming. 

HOW YOU MAY FEEL:  
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you. 
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed. 
- You could have a poor appetite for a while. Food may seem 
unappealing. 
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon. 

YOUR BOWELS: 
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription. 
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon. 

PAIN MANAGEMENT: 
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".  
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 

-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directed.  
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed. 
- Your pain medicine will work better if you take it before your 
pain gets too severe. 
- Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay. 
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine. 
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises. 
If you experience any of the following, please contact your 
surgeon: 
- sharp pain or any severe pain that lasts several hours 
- pain that is getting worse over time 
- pain accompanied by fever of more than 101 
- a drastic change in nature or quality of your pain 

MEDICATIONS: 
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently. 
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

VAC instruction:
1. While wet-to-dry dressings are in place, please change ___ 
times a day or as needed for increased soiling.
2. While VAC is in place, please clean around the VAC site and 
monitor for air leaks of the VAC
3. A written record of the daily output from the VAC drain 
should be brought to every follow-up appointment. Your VAC drain 
will be removed as soon as possible when the daily output tapers 
off to an acceptable amount and the wound is no longer 
concerning for ongoing infection
4. You may shower daily with assistance as needed.
5. Okay to shower, but no baths until after directed by your 
surgeon
 
Followup Instructions:
___